US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 71 μL (0.55 mmol) of benzyl-methylamine. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in methanol, 35 mg (17%) of 8-(benzyl-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | benzyl-methylamine | 0.55 mmol, 71 μL | C(C1=CC=CC=C1)NC | C8H11N
product | 8-(benzyl-methyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 35 mg, 17% | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-] | InChI=1S/C19H17N3O3S.C3H6O2/c1-22(12-13-5-3-2-4-6-13)26(24,25)14-7-8-17-16(11-14)15-9-10-20-18(15)19(23)21-17;1-2-3(4)5/h2-11,20H,12H2,1H3,(H,21,23);2H2,1H3,(H,4,5)/p-1
